US09315475B2
Step 4: Preparation of tert-butyl (2R,5R)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]-5-{[(phenylcarbamoyl)amino]methyl}morpholine-4-carboxylate
To a solution of tert-butyl (2R,5R)-5-(aminomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate (1 eq.) in DCM (0.1M) was added phenyl isocyanate (2.2 eq). The reaction mixture was stirred for 16 hrs at room temperature, diluted with CH2Cl2 and the organic layer was washed with aqueous saturated sodium bicarbonate. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by automated silica gel flash chromatography system eluted with a gradient 10% to 100% of EtOAc/Hex to afford title compound.

reactant | tert-butyl (2R,5R)-5-(aminomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate | 1 eq. | NC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H44N4O6
reactant | phenyl isocyanate | 2.2 eq | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | DCM | 0.1M | C(Cl)Cl | CH2Cl2
product | tert-butyl (2R,5R)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]-5-{[(phenylcarbamoyl)amino]methyl}morpholine-4-carboxylate | COC(=O)N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)CC[C@@H]1CN([C@@H](CO1)CNC(NC1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C42H49N5O7
